US04891372
7-Methanesulphonamido-1,2,4,5-tetrahydro-3H-3-benzazepine
3-Tertiary-butoxycarbonyl-7-methanesulphonamido-1,2,4,5-tetrahydro-3H-3-benzazepine (0.6 g) and 98% formic acid (10 ml) were stirred together at room temperature for 2 hours. The solvent was evaporated in vacuo to give an oil which was basified with aqueous sodium bicarbonate. The aqueous solution was evaporated in vacuo and the residue was triturated with hot isopropanol. The isopropanol was decanted and evaporated in vacuo to give a solid which was recrystallised from ethyl acetate/hexane to give the title compound, yield 0.22 g.

reactant | 3-Tertiary-butoxycarbonyl-7-methanesulphonamido-1,2,4,5-tetrahydro-3H-3-benzazepine | 0.6 g | C(C)(C)(C)OC(=O)N1CCC2=C(CC1)C=CC(=C2)NS(=O)(=O)C | C16H24N2O4S
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | formic acid | 10 ml | C(=O)O | CH2O2
product | 7-Methanesulphonamido-1,2,4,5-tetrahydro-3H-3-benzazepine | CS(=O)(=O)NC1=CC2=C(CCNCC2)C=C1 | C11H16N2O2S
